US04134890
To a solution of 20 parts of α-phenylacetonitrile in 300 parts by volume of toluene is added 94 parts of 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane dissolved in 500 parts by volume of toluene. The mixture is heated with stirring to about 80° C. and then 17 parts of sodium amide is added slowly over a period of 30 minutes. The mixture is heated at 80° C. for another 30 minutes and then cooled to room temperature. 500 Parts by volume of water is then added to the mixture and the organic layer separated and extracted with dilute hydrochloric acid. The aqueous acidic extract is made alkaline by the addition of dilute sodium hydroxide. The alkaline mixture is extracted with ether, the ether extract dried over calcium sulfate and distilled to afford 2-phenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyronitrile.

reactant | α-phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
reactant | 3-(2-chloroethyl)-3-azabicyclo[3.2.2]nonane | ClCCN1CC2CCC(C1)CC2 | C10H18ClN
reactant | sodium amide | [NH2-].[Na+]
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-phenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyronitrile | C1(=CC=CC=C1)C(C#N)CCN1CC2CCC(C1)CC2 | C18H24N2
